US07795247B2
Step 4: methyl 14-cyclohexyl-6-{2-[methyl(pyridin-3-ylmethyl)amino]-2-oxoethyl}-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate
To a solution of [14-cyclohexyl-11-(methoxycarbonyl)-7,8-dihydroindolo[2,1-a][2,5]benzodiazocin-6(5H)-yl]acetic acid in DCM (0.05 M), 3.5 eq of DIPEA, 1.5 eq of HATU and 1.5 eq of N-methyl-1-pyridin-3-ylmethanamine were added and the mixture was stirred overnight at RT. The solution was portioned between DCM and brine. The aqueous phase was re-extracted with DCM (twice) and the combined organics then dried over Na2SO4, filtered and concentrated in vacuo. The crude was used in the next step without further purification; MS (ES+) m/z 551 (M+H)+.

reactant | [14-cyclohexyl-11-(methoxycarbonyl)-7,8-dihydroindolo[2,1-a][2,5]benzodiazocin-6(5H)-yl]acetic acid | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CC(=O)O)C=CC=C1)C(=O)OC | C27H30N2O4
reactant | DIPEA | 3.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl-1-pyridin-3-ylmethanamine | 1.5 eq | CNCC=1C=NC=CC1 | C7H10N2
reactant | brine | [Cl-].[Na+].O
solvent | DCM | 0.05 M | C(Cl)Cl | CH2Cl2
product | methyl 14-cyclohexyl-6-{2-[methyl(pyridin-3-ylmethyl)amino]-2-oxoethyl}-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CC(=O)N(CC=2C=NC=CC2)C)C=CC=C1)C(=O)OC | C34H38N4O3
